US05294618
trans-1,2,3,4,4a,5,6,10b-Octahydro-3-(4'-nitrophenethyl)benz[f]isoquinoline
Following the procedure of Example 3, step 4, 0.300 g (1.60 mmol) of crude trans-1,2,3,4,4a,5,6,10b-octahydrobenz[f]isoquinoline in 10 ml of anhydrous DMF was reacted with 0.244 g (1.77 mmol) of anhydrous potassium carbonate and 0.369 g (1.60 mmol) of 4-nitrophenethyl bromide. Chromatography on flash silica, eluting with 50-100% ethyl acetate/petroleum ether, then on a Lobar column, eluting with 50% ethyl acetate/petroleum ether, afforded 0.200 g (37%) of the title product as a white solid. The hydrochloride salt was made using ethereal hydrogen chloride. Upon evaporation of the solvent the title product hydrochloride was obtained as a white solid, m.p. 232°-233° C. (dec). NMR δ(CDCl3) 1.50 (1H, m), 1.86-1.91 (1H, m), 2.28-2.61 (5H, m), 2.86-3.06 (3H, m), 3.24-3.26 (2H, m), 3.49-3.52 (2H, m), 3.66 (1H, m), 3.85 (1H, m), 7.10-7.19 (4H, m), 7.49 (2H, d, J=8.6 Hz), 8.19 (2H, d, J=8.6 Hz). m/z (CI+, NH3) 307 (M-NO+H)+, 200 (M-CH2C6H4NO2)+, 188.

reactant | trans-1,2,3,4,4a,5,6,10b-octahydrobenz[f]isoquinoline | 1.60 mmol, 0.300 g | C1CNC[C@H]2CCC3=C([C@H]12)C=CC=C3 | C13H17N
reactant | potassium carbonate | 1.77 mmol, 0.244 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitrophenethyl bromide | 1.60 mmol, 0.369 g | [N+](=O)([O-])C1=CC=C(CCBr)C=C1 | C8H8BrNO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | trans-1,2,3,4,4a,5,6,10b-Octahydro-3-(4'-nitrophenethyl)benz[f]isoquinoline | 0.200 g, 37% | [N+](=O)([O-])C1=CC=C(CCN2C[C@H]3CCC4=C([C@@H]3CC2)C=CC=C4)C=C1 | C21H24N2O2
